US09382188B2
G) ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylacrylate
Under a nitrogen atmosphere, ethyl diethylphosphonoacetate (16.8 mL) was added to a suspension of 60% sodium hydride (3.01 g) in THF (100 mL) at 0° C., and the mixture was stirred for 5 min. To the reaction mixture was added (6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)(cyclopropyl)methanone (entire amount) obtained in Example 29, step F, at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (7.26 g) as a yellow oil.

reactant | ethyl diethylphosphonoacetate | 16.8 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 3.01 g | [H-].[Na+]
reactant | (6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)(cyclopropyl)methanone | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C(=O)C1CC1 | C25H28N2O2Si
reactant | Water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylacrylate | 7.26 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C(=CC(=O)OCC)C1CC1 | C29H34N2O3Si
